### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Limits/Types): more results on pushout squares

### PR DESCRIPTION
**Pull request by joelriou**
More lemmas are introduced in order to relate pushout and pullback squares in `Type`.

From https://github.com/joelriou/topcat-model-category

---

About the `large-import` label, I have added a dependency to `Types.Pullbacks` in the file `Types.Pushouts` because basic results about pushouts of types also involve pullbacks. Currently, very few files depend on `Types.Pushouts`, so that I am not sure there is a need to further split `Types.Pushouts` (everything used to be in the same file before #31258).

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Types/Pullbacks.lean [hunk 1]
```diff
@@ -201,4 +201,46 @@ lemma range_pullbackFst : Set.range (pullback.fst f g) = f ⁻¹' Set.range g :=
...
+    let φ : X₁ ⟶ PullbackObj r b := fun x₁ ↦ ⟨⟨t x₁, l x₁⟩, congr_fun w x₁⟩
+    have hφ : IsIso φ := by
+      rw [isIso_iff_bijective]
+      constructor
+      · intro x₁ y₁ h
+        rw [Subtype.ext_iff, Prod.ext_iff] at h
+        exact h₁ _ _ h
+      · rintro ⟨⟨x₂, x₃⟩, h⟩
+        obtain ⟨x₁, rfl, rfl⟩ := h₂ x₂ x₃ h
+        exact ⟨x₁, rfl⟩
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Types/Pullbacks.lean]:
```suggestion
      grind [Function.Bijective, Function.Injective, Function.Surjective]
```

Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Types/Pullbacks.lean]:
```suggestion
      grind [Function.Bijective, Function.Injective, Function.Surjective]
```

File: Mathlib/CategoryTheory/Limits/Types/Pushouts.lean [hunk 2]
```diff
@@ -256,6 +252,126 @@ instance [Mono g] : Mono (pushout.inl f g) :=
...
+  obtain ⟨j, x, rfl⟩ := jointly_surjective_of_isColimit h.isColimit x₄
+  obtain (_ | _ | _) := j
+  · exact Or.inl ⟨t x, by simp⟩
+  · exact Or.inl ⟨x, rfl⟩
+  · exact Or.inr ⟨x, rfl⟩
+
+lemma eq_or_eq_of_isPushout' (h : IsPushout t l r b)
+    (x₄ : X₄) : (∃ x₂, r x₂ = x₄) ∨ ∃ x₃, b x₃ = x₄ ∧ x₃ ∉ Set.range l := by
+  obtain h₁ | ⟨x₃, hx₃⟩ := eq_or_eq_of_isPushout h x₄
+  · refine Or.inl h₁
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Types/Pushouts.lean]:
```suggestion
  · exact Or.inl h₁
```

File: Mathlib/CategoryTheory/Limits/Types/Pushouts.lean [hunk 3]
```diff
@@ -256,6 +252,126 @@ instance [Mono g] : Mono (pushout.inl f g) :=
...
+  · by_cases h₂ : x₃ ∈ Set.range l
+    · obtain ⟨x₁, rfl⟩ := h₂
+      exact Or.inl ⟨t x₁, by simpa only [← hx₃] using congr_fun h.w x₁⟩
+    · exact Or.inr ⟨x₃, hx₃, h₂⟩
+
+lemma isPullback_of_isPushout (h : IsPushout t l r b) (ht : Function.Injective t) :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Types/Pushouts.lean:280]: Note that it is essentially a duplicate of [CategoryTheory.Adhesive.isPullback_of_isPushout_of_mono_left](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Adhesive.html#CategoryTheory.Adhesive.isPullback_of_isPushout_of_mono_left), but this might add an unreasonable amount of imports. It would be good to mention this in the docstring though.

I have some of a feeling that in fact the whole result in this file PR generalizes to a more general setup than just `Type` (it is certainly true in any elementary topos, but it probably needs less, perhaps something like adhesive and regular, to make sense of complements?).

**Review by robin-carlier — COMMENTED** [review]
It looks good as is but I can’t shake off the feeling that there is a more general setup to make sense of the result about pushout (and it probably involves only typeclasses already present in Mathlib that `Type` instantiate!), but I don’t know the exact one right now.

On the other hand, even by proving it with results from a far more general setup, we’ll still need the translation in terms of `Set.range` for useful applications to presheaves I think, so for now it’s probably fine to have as is.

The rest of the comments are mostly minor.

Thanks!

maintainer delegate

File: Mathlib/CategoryTheory/Limits/Types/Pushouts.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/Types/Pushouts.lean:280]: Thanks for these remarks. I have mentionned this lemma in the docstring.
